US05166346
a) 3-Amino-4-methoxycarbonyl-2,5-dihydrothiophene 1-oxide
3.2 g (0.02 mol) of 3-amino-4-methoxycarbonyl-2,5-dihydrothiophene are suspended in 30 ml of isopropanol. 2.2 ml of 35% strength hydrogen peroxide are added, with cooling. The mixture is then stirred at an internal temperature of 50° C. until starting material can no longer be detected in a thin layer chromatogram (approx. 5 hours). The mixture is then cooled in an ice bath and the precipitated crystals are filtered off with suction and washed with ice-cold isopropanol and with diethyl ether. Yield: 3.5 g (91% of theory). When recrystallized from methanol, the crystals melt at 137°-140° C.

reactant | 3-amino-4-methoxycarbonyl-2,5-dihydrothiophene | 0.02 mol, 3.2 g | NC=1CSCC1C(=O)OC | C6H9NO2S
reactant | hydrogen peroxide | OO | H2O2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 3-Amino-4-methoxycarbonyl-2,5-dihydrothiophene 1-oxide | NC=1CS(CC1C(=O)OC)=O | C6H9NO3S
